US06048885
Dimethyl sulfoxide (3 ml) and 95% sodium cyanide (0.31 g, 6 mmol) were added to 5-chloro-2-(4-chlorobenzyloxy)-α-methoxyiminobenzyl chloride (1.03 g, 3 mmol), and the mixture was stirred at 100° C. for 4 hours. After completion of the reaction, ethyl acetate (150 ml) was added, and the mixture was washed with saturated brine (100 ml) twice. The ethyl acetate layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography (ethyl acetate/n-hexane) to give 5-chloro-2-(4-chlorobenzyloxy)-α-methoxyiminophenylacetonitrile (0.92 g, 91.5%) as crystals.

reactant | Dimethyl sulfoxide | 3 ml | CS(=O)C | C2H6OS
reactant | sodium cyanide | 6 mmol, 0.31 g | [C-]#N.[Na+]
reactant | 5-chloro-2-(4-chlorobenzyloxy)-α-methoxyiminobenzyl chloride | 3 mmol, 1.03 g | ClC=1C=CC(=C(C(=NOC)Cl)C1)OCC1=CC=C(C=C1)Cl | C15H12Cl3NO2
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | 5-chloro-2-(4-chlorobenzyloxy)-α-methoxyiminophenylacetonitrile | 0.92 g, 91.5% | ClC=1C=CC(=C(C1)C(C#N)=NOC)OCC1=CC=C(C=C1)Cl | C16H12Cl2N2O2
